US05962718
To 4.80 g (30.2 mmol) of dichloro(phenyl)borane, dissolved in 70 ml of diethyl ether, a suspension of 8.36 g (60.4 mmol) of trimethylsilylcyclopentadienyllithium in 100 ml of diethyl ether is slowly added at -78° C. The mixture is allowed to warm to room temperature in the cooling bath, and insolubles are filtered off. After concentrating the yellow filtrate to dryness in an oil-pump vacuum, 10.8 g of bis(trimethylsilylcyclopentadienyl) (phenyl)borane is obtained as a yellow viscous oil.

reactant | dichloro(phenyl)borane | 30.2 mmol, 4.80 g | ClB(C1=CC=CC=C1)Cl | C6H5BCl2
reactant | trimethylsilylcyclopentadienyllithium | 60.4 mmol, 8.36 g | C[Si](C)(C)C1(C=CC=C1)[Li]
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | bis(trimethylsilylcyclopentadienyl) (phenyl)borane | 10.8 g | C[Si](C)(C)C1(C=CC=C1)B(C1=CC=CC=C1)C1(C=CC=C1)[Si](C)(C)C | C22H31BSi2
